Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left gluteal hematoma
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ presents from OSH 2 days after fall from standing w/ L
gluteal hematoma. He states he was reaching for a file and lost
his balance and fell back on his buttocks. He denies LOC or head
strike. He continued feeling well until today he noted the
ecchymosis of his leg had worsened so presented to ___
where CT A/P showed possible extravization of contrast into a L
gluteal hematoma. The patient takes Coumadin and was reversed
with vitamin K at ___. 
 
Past Medical History:
Past Medical History: hypothyroidism, polycethemia ___, AVB,
HLD, Depression, Vertigo.

Past Surgical History: TURP, Pacer placement
 
Social History:
___
Family History:
-
 
Physical Exam:
Upon admission:
Physical Exam:
Vitals:98.0 60 167/85 18 98 1L 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: Paced, regular rhythm
PULM: NRD
ABD: Soft, nondistended, nontender, no rebound or guarding
Ext: L gluteal hematoma with significant hematoma and ecchymosis
tracking down L posterior and lateral portion of leg below the
calf. Patient has full ROM of L hip and L knee. 

Upon discharge:
Vitals: 97.4 136/70 60 18 99% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: Paced, regular rhythm
PULM: NRD
ABD: Soft, nondistended, nontender, no rebound or guarding
Ext: L gluteal hematoma with significant hematoma and ecchymosis
tracking down L posterior and lateral portion of leg below the
calf. Not passing the marked line and on dependent portions. 
Soft and not tense. Patient has full ROM of L hip and L knee. 
 
Pertinent Results:
___ 06:55AM BLOOD WBC-5.7 RBC-4.17* Hgb-12.3* Hct-38.0* 
MCV-91 MCH-29.5 MCHC-32.4 RDW-15.2 RDWSD-49.6* Plt ___
___ 10:02PM BLOOD WBC-5.9 RBC-4.38* Hgb-12.8* Hct-40.2 
MCV-92 MCH-29.2 MCHC-31.8* RDW-15.1 RDWSD-50.5* Plt ___
___ 07:17AM BLOOD WBC-5.5 RBC-4.23* Hgb-12.6* Hct-39.5* 
MCV-93 MCH-29.8 MCHC-31.9* RDW-15.1 RDWSD-51.8* Plt ___
___ 09:40PM BLOOD WBC-6.2 RBC-4.27* Hgb-12.5* Hct-39.8* 
MCV-93 MCH-29.3 MCHC-31.4* RDW-15.0 RDWSD-51.4* Plt ___
___ 06:55AM BLOOD ___ PTT-31.7 ___
___ 10:02PM BLOOD ___ PTT-31.5 ___
___ 07:17AM BLOOD ___ PTT-34.0 ___
___ 09:40PM BLOOD ___ PTT-35.6 ___
___ 07:17AM BLOOD Glucose-90 UreaN-21* Creat-0.9 Na-144 
K-4.1 Cl-107 HCO3-22 AnGap-19
___ 09:40PM BLOOD Glucose-96 UreaN-22* Creat-0.9 Na-142 
K-4.1 Cl-106 HCO3-22 AnGap-18
 
Brief Hospital Course:
Mr. ___ was admitted to the Acute Care Surgery service to 
monitor his left gluteal hematoma. We held his home Coumadin 
since admission in concern for bleeding and he is to restart it 
with his PCP after discharge. His hematoma was marked and his 
Hct were trended while he was in hospital along with his coags. 
His Hct on ___ were 41->40->39.5 and on ___: 
40.2->38.0. His INR was 1.3-1.4. He has been hemodynamically 
stable and his bruising stayed within the mark. He worked with 
physical therapy whom recommended home with home ___. 24 hours 
after his admission, a tertiary survey was negative. Patient was 
tolerating a regular diet, ambulating, voiding, stooling, 
experienced no neurologic changes or chest pain, and was on home 
meds throughout the entire hospitalization. He is to see us in 
clinic in ___ weeks for a trauma follow-up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Simvastatin 20 mg PO QPM 
4. Digoxin 0.125 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Ranitidine 150 mg PO DAILY 
7. Warfarin Dose is Unknown  PO DAILY16 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
3.  Senna 8.6 mg PO BID:PRN constipation  
4.  TraMADol 25 mg PO Q6H:PRN Pain - Moderate 
may cause dizziness, do not drive while no this medication 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*12 Tablet Refills:*0 
5.  ___  MD to order daily dose PO DAILY16 
please discuss with your primary care provider resuming the 
coumadin  
6.  Digoxin 0.125 mg PO DAILY  
7.  Levothyroxine Sodium 75 mcg PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Ranitidine 150 mg PO DAILY  
10.  Sertraline 50 mg PO DAILY  
11.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left gluteal hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ to 
monitor your left gluteal hematoma. It has been stable and you 
are recovering well and are now ready for discharge. Please 
follow the instructions below to continue your recovery:

Because you were initially bleeding in your left buttock, we 
have reversed your INR and held your Coumadin. It is important 
for you to follow-up with your PCP ___ 1 week after your 
discharge for a reevaluation for resuming your Coumadin.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*New dizziness or lightheadedness that is persistent.
*Left gluteal area feeling tight, painful and bruise spreading.
*New numbness or change in sensation along the left gluteal area 
and leg.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Good luck!

 
Followup Instructions:
___